US07001904B1
4-Amino-6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)quinazoline was prepared by reaction of 4-amino-6-methoxy-7-hydroxyquinazoline with 1-methyl-3-piperidinemethanol under analogous conditions to those described Example 2, Note[11]:—Mass Spectrum: M+H+ 303.

reactant | 4-amino-6-methoxy-7-hydroxyquinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)O | C9H9N3O2
reactant | 1-methyl-3-piperidinemethanol | CN1CC(CCC1)CO | C7H15NO
product | 4-Amino-6-methoxy-7-(N-methylpiperidin-3-ylmethoxy)quinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CN(CCC1)C | C16H22N4O2
